US04391808
The starting material is prepared as follows: To the suspension of 1.44 g of 50% sodium hydride in mineral oil and 150 ml of dry tetrahydrofuran, 6.45 g of imidazo [2,1-b][1,3,5]benzothiadiazepin-5(6H)-thione are added in portions, and the mixture is stirred at room temperature under nitrogen for one hour. The resulting white suspension is cooled to 0° and the solution of 3.5 g of cyanogen bromide in 10 ml of tetrahydrofuran are added dropwise. The mixture is stirred at room temperature for 0.5 hour and evaporated. The residue is triturated with methylene chloride, the mixture washed with water, dried, concentrated to a small volume, washed with diethyl ether and filtered, to yield the 5-thiocyanatoimidazo[2,1-b][1,3,5]benzothiadiazepine melting at 111°-113°.

reactant | sodium hydride | 1.44 g | [H-].[Na+]
reactant | imidazo [2,1-b][1,3,5]benzothiadiazepin-5(6H)-thione | 6.45 g | N=1C=CN2C1SC1=C(NC2=S)C=CC=C1 | C10H7N3S2
reactant | cyanogen bromide | 3.5 g | N#CBr | CBrN
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5-thiocyanatoimidazo[2,1-b][1,3,5]benzothiadiazepine | S(C#N)C=1N2C(SC3=C(N1)C=CC=C3)=NC=C2 | C11H6N4S2
